US05326776
Ethyl 5-amino-1-benzyl-1H-1,2,3-triazole-4-carboxylate
To a solution of 1.15 g (0.05 mol) of sodium in 80 mL of absolute ethanol was added 4.5 mL of methyl cyanoacetate and 6.5 g (0.05 mol) of benzyl azide. A white precipitate formed immediately, and the resulting mixture was stirred overnight. The yellowish creamy mixture was poured into 500 mL of ice water, and a crude yellow precipitate was collected by filtration. Recrystallization from ethanol afforded the title compound as a pale yellow solid (5.0 g, 42%). m.p. 153° C.

reactant | sodium | 0.05 mol, 1.15 g | [Na] | Na
reactant | methyl cyanoacetate | 4.5 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | benzyl azide | 0.05 mol, 6.5 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | ethanol | 80 mL | C(C)O | C2H6O
product | Ethyl 5-amino-1-benzyl-1H-1,2,3-triazole-4-carboxylate | 5.0 g, 42% | NC1=C(N=NN1CC1=CC=CC=C1)C(=O)OCC | C12H14N4O2
